US07838499B2
Preparation of (5-bromo-2-chlorophenyl)(4-(bromomethyl)phenyl)methanone (Intermediate AH)
To a solution of (5-bromo-2-chlorophenyl)(p-tolyl)methanone (intermediate AG) (16 g, 48.9 mmol) in CCl4 (80 mL), NBS (10.08 g, 57 mmol) and AIBN (0.848 g) was added. Then the mixture was heated to 90° C. After 3 h, CCl4 was removed under reduced pressure. The residue was dissolved in CH2Cl2 and the solution was washed 1× with HCl (1M) and 2× with brine prior to drying over Na2SO4. Solvent was removed under reduced pressure to obtain crude intermediate AH (20.75 g).

reactant | (5-bromo-2-chlorophenyl)(p-tolyl)methanone | 48.9 mmol, 16 g | BrC=1C=CC(=C(C1)C(=O)C1=CC=C(C=C1)C)Cl | C14H10BrClO
reactant | NBS | 57 mmol, 10.08 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 0.848 g | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 80 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | (5-bromo-2-chlorophenyl)(4-(bromomethyl)phenyl)methanone | BrC=1C=CC(=C(C1)C(=O)C1=CC=C(C=C1)CBr)Cl | C14H9Br2ClO
